US08183231B2
((R)-3-{(S)-2-[(S)-2-Amino-3-(1H-indol-3-yl)-propionylamino]-3-methyl-butyrylamino}-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid
The title compound was prepared substantially following the procedures as set forth in Method B, Example 12, and employing ((R)-3-amino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid benzyl ester hydrochloride and N-Cbz-Trp-Val-OH as the staring materials, which yielded the title compound as a white powder. 1H NMR (CD3OD, 300 MHz): δ 7.65-7.62 (d, 1H), 7.38-7.35 (d, 1H), 7.17-7.01 (m, 3H), 4.26-4.20 (m, 1H), 4.17-4.14 (d, 1H), 4.05 (m, 1H), 3.46-3.20 (m, 4H), 2.00 (m, 1H), 1.9-1.88 (m, 2H), 1.77-1.54 (m, 8H), 1.34-1.16 (m, 3H), 1.05-0.94 (m, 8H). 31P NMR (CD3OD, 300 MHz): δ 42.89. LCMS m/z: [M+H]+=521.

reactant | ((R)-3-amino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OP(=O)(CC1CCCCC1)C[C@@H](CN)O
reactant | N-Cbz-Trp-Val-OH | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](C(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C24H27N3O5
product | ((R)-3-{(S)-2-[(S)-2-Amino-3-(1H-indol-3-yl)-propionylamino]-3-methyl-butyrylamino}-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid | N[C@H](C(=O)N[C@H](C(=O)NC[C@H](CP(O)(=O)CC1CCCCC1)O)C(C)C)CC1=CNC2=CC=CC=C12 | C26H41N4O5P
